* source EXERCISE_2
Q_Q1         VCE N00508 0 Q2N3904
R_R2         N00508 N00581  100k TC=0,0 
V_VCE         N00612 0 12Vdc
I_I1         0 N00581 DC 0Adc  
R_R1         N00612 VCE  10 TC=0,0 
